US07459554B2
8-Amino-1-(3-Benzyloxy-2-fluorophenyl)-3-cyclobutylimidazo[1,5-a]pyrazine:
(3-Benzyloxy-2-fluorophenyl) (3-chloropyrazin-2-yl) carbinol: In a 100 mL three-necked round-bottom flask equipped with a N2-inlet and a thermometer was placed THF (28 mL). This was cooled to −40° C. and there was added 2.5 M solution of n-BuLi in hexane (11.52 mL, 28.8 mmole) followed by 2,2,6,6-tetramethylpiperidine (4.84 mL, 28.8 mmole). The temperature of the mixture was allowed to rise to 0° C. and stirring was continued at −5 to 0° C. for 30 minutes. The mixture was then cooled to −70° C., and the chloropyrazine (1.28 mL, 14.4 mmole) was added slowly over 15 minutes and the stirring was continued for 30 minutes. A solution of 3-benzyloxy-2-fluorobenzaldehyde (3.04 g. 13.2 mmole) in THF (7 mL) was then added at −70° C. and stirring was continued at −70 to −60° C. for 2 h. There after the temperature was allowed to rise to room temperature over 1 h. The reaction mixture was quenched with 2 N HCl (6 mL) and stirred overnight at room temperature. The mixture was then evaporated on a rotary evaporator to remove most of the THF. Ethyl acetate (20 mL) was added to the residue. The organic layer was separated, washed with water (10 mL), finally with brine (10 mL), dried over Na2SO4, filtered and concentrated. The crude residue obtained was 4.4 g. The above reaction was repeated four times and the products were combined. This was purified by silica-gel column chromatography using as the eluent ethyl acetate:hexane (30:70) and the title compound (3.8 g, 21%) was obtained.

reactant | (3-Benzyloxy-2-fluorophenyl) (3-chloropyrazin-2-yl) carbinol | C(C1=CC=CC=C1)OC=1C(=C(C=CC1)C(O)C1=NC=CN=C1Cl)F | C18H14ClFN2O2
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 28.8 mmole, 11.52 mL | CCCCCC | C6H14
reactant | 2,2,6,6-tetramethylpiperidine | 28.8 mmole, 4.84 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | chloropyrazine | 14.4 mmole, 1.28 mL | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 3-benzyloxy-2-fluorobenzaldehyde | 13.2 mmole, 3.04 g | C(C1=CC=CC=C1)OC=1C(=C(C=O)C=CC1)F | C14H11FO2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 28 mL | C1CCOC1 | C4H8O
product | 8-Amino-1-(3-Benzyloxy-2-fluorophenyl)-3-cyclobutylimidazo[1,5-a]pyrazine | 3.8 g, 21% | NC=1C=2N(C=CN1)C(=NC2C2=C(C(=CC=C2)OCC2=CC=CC=C2)F)C2CCC2 | C23H21FN4O
